US08114886B2
5-[(2,5-difluorophenyl)[(4-fluorophenyl)sulfonyl]methyl]-N, 4-dimethylpyridine-2-carboxamide
To a solution of 5-[(2,5-difluorophenyl)[(4-fluorophenyl)sulfonyl]methyl]-4-methylpyridine-2-carboxylic acid (105 mg, 0.25 mmol) in methylene chloride (3 ml), methylamine hydrochloride (19 mg, 0.28 mmol), 1-hydroxybenzotriazole (37 mg, 0.28 mmol), 4-methylmorpholine (0.061 ml, 0.55 mmol), and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (53 mg, 0.28 mmol) were added at room temperature. After stirring for 2 hours at room temperature, water was added to the reaction mixture, and the mixture was washed with saturated aqueous sodium hydrogencarbonate. The organic layer dried over anhydrous sodium sulfate and filtered, then the filtrate was concentrated under reduced pressure, and the resulting residue was subjected to flash silica gel chromatography. The fraction obtained from an elution with hexane:ethyl acetate=7:3 was concentrated under reduced pressure, and the resulting residue was washed with a mixed solvent of ethanol and hexane and then collected by filtration, to obtain the title compound (73 mg, 0.17 mmol, 67%) as a white solid.

reactant | 5-[(2,5-difluorophenyl)[(4-fluorophenyl)sulfonyl]methyl]-4-methylpyridine-2-carboxylic acid | 0.25 mmol, 105 mg | FC1=C(C=C(C=C1)F)C(C=1C(=CC(=NC1)C(=O)O)C)S(=O)(=O)C1=CC=C(C=C1)F | C20H14F3NO4S
reactant | methylamine hydrochloride | 0.28 mmol, 19 mg | Cl.CN
reactant | 1-hydroxybenzotriazole | 0.28 mmol, 37 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 4-methylmorpholine | 0.55 mmol, 0.061 ml | CN1CCOCC1 | C5H11NO
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.28 mmol, 53 mg | Cl.C(C)N=C=NCCCN(C)C
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 5-[(2,5-difluorophenyl)[(4-fluorophenyl)sulfonyl]methyl]-N, 4-dimethylpyridine-2-carboxamide | 0.17 mmol, 73 mg, 67% | FC1=C(C=C(C=C1)F)C(C=1C(=CC(=NC1)C(=O)NC)C)S(=O)(=O)C1=CC=C(C=C1)F | C21H17F3N2O3S
